US06083943
(11) (2R*,3S*,5S*)-1-Benzyloxycarbonyl-5-(tert-butyldimethylsilyloxy)methyl-3-methoxycarbonyl-2-phenylpiperidine
To a stirred and ice-cooled mixture of (2R*,3S*,5S*)-5-(tert-butyldimethylsilyloxy)methyl-3-methoxycarbonyl-2-phenylpiperidine (11.46 g, 31.52 mmol), NaHCO3 (3.97 g, 47.3 mmol), H2O (80.0 ml), and THF (10.0 ml) was added a solution of benzyl chloroformate (Cbz-Cl, 5.92 g, 34.67 mmol) in THF (15.0 ml). A precipitated gummy material was dispersed by adding AcOEt (40.0 ml). After the resultant milky suspension was stirred with ice-cooling for 2.5 hours, the organic layer was separated from the mixture, and the aqueous layer was extracted with AcOEt (40 ml×4). The combined organic layer and AcOEt extracts were washed with sat. NaCl aq. solution (×1), dried (MgSO4), and concentrated in vacuo to give a yellow oil (16.56 g). This was flash chromatographed over Sir (Merck Kieselgel 60, 200 g). Elution with n-hexane-AcOEt (60:1/30:1/20:1) gave title compound (13.88 g, 88.5%) as a pale yellow oil. IRmax (film): 1735(s), 1700(s), 1498(m), 1290(s), 1253(s), 1100(s), 775(s), 740(m), 700(s) cm-1 ; 1H-NMR δ: 7.42-7.28(m, 6H), 7.28-7.16(m, 4H), 5.98-5.87(m, 1H), 5.31-5.10(m, 2H), 3.92(dm, J=13.6 Hz, 1H), 3.63(dd, J=10.1, 9.7 Hz, 1H), 3.60(s, 3H), 3.53(dd, J=10.1, 7.9 Hz, 1H), 3.09(ddd, J=11.2, 5.6, 5.6 Hz, 1H), 3.12-2.95(m, 1H), 2.24-2.06(m, 1H), 2.06-1.93(m, 1H), 0.87(s, 9H), 0.02(s, 6H) ppm.

reactant | (2R*,3S*,5S*)-5-(tert-butyldimethylsilyloxy)methyl-3-methoxycarbonyl-2-phenylpiperidine | 31.52 mmol, 11.46 g | [Si](C)(C)(C(C)(C)C)OC[C@H]1C[C@@H]([C@@H](NC1)C1=CC=CC=C1)C(=O)OC | C20H33NO3Si
reactant | NaHCO3 | 47.3 mmol, 3.97 g | C(=O)(O)[O-].[Na+]
reactant | H2O | 80.0 ml | O | H2O
reactant | benzyl chloroformate | 34.67 mmol, 5.92 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | THF | 15.0 ml | C1CCOC1 | C4H8O
solvent | THF | 10.0 ml | C1CCOC1 | C4H8O
solvent | AcOEt | 40.0 ml | CCOC(=O)C | C4H8O2
product | (2R*,3S*,5S*)-1-Benzyloxycarbonyl-5-(tert-butyldimethylsilyloxy)methyl-3-methoxycarbonyl-2-phenylpiperidine | 16.56 g | C(C1=CC=CC=C1)OC(=O)N1[C@H]([C@H](C[C@@H](C1)CO[Si](C)(C)C(C)(C)C)C(=O)OC)C1=CC=CC=C1 | C28H39NO5Si
